US08034953B2
Step 1. tert-Butyl {4-[({4-[4-(3-chlorophenyl)-5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl]-1,2,5-oxadiazol-3-yl}amino)carbonyl]benzyl}carbamate
A solution of 3-(4-amino-1,2,5-oxadiazol-3-yl)-4-(3-chlorophenyl)-1,2,4-oxadiazol-5(4H)-one (50 mg, 0.18 mmol) and 4-{[(tert-butoxycarbonyl)amino]methyl}benzoic acid (49 mg, 0.2 mmol) in dichloromethane (3.5 mL) was treated with 4-dimethylaminopyridine (13 mg, 0.1 mmol) and N,N-diisopropylethylamine (93 μL, 0.54 mmol). After the reaction mixture turned clear, it was treated with bromotris(pyrrolydino)phosphonium hexafluorophosphate (50 mg, 0.11 mmol) and additional N,N-diisopropylethylamine (93 μL, 0.54 mmol). The reaction mixture was stirred for 16 h, treated with additional bromotris(pyrrolydino)phosphonium hexafluorophosphate (50 mg, 0.11 mmol), and stirred for another 6 h. The reaction mixture was diluted with ethyl acetate (60 mL) and washed with 0.1 M HCl (2×25 mL) and brine (25 mL), dried with sodium sulfate, filtered, and concentrated. Purification of the crude reaction mixture by preparative LCMS gave the desired product (22 mg, 24%).

reactant | 3-(4-amino-1,2,5-oxadiazol-3-yl)-4-(3-chlorophenyl)-1,2,4-oxadiazol-5(4H)-one | 0.18 mmol, 50 mg | NC=1C(=NON1)C1=NOC(N1C1=CC(=CC=C1)Cl)=O | C10H6ClN5O3
reactant | 4-{[(tert-butoxycarbonyl)amino]methyl}benzoic acid | 0.2 mmol, 49 mg | C(C)(C)(C)OC(=O)NCC1=CC=C(C(=O)O)C=C1 | C13H17NO4
reactant | N,N-diisopropylethylamine | 0.54 mmol, 93 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-diisopropylethylamine | 0.54 mmol, 93 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 3.5 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.1 mmol, 13 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
product | tert-Butyl {4-[({4-[4-(3-chlorophenyl)-5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl]-1,2,5-oxadiazol-3-yl}amino)carbonyl]benzyl}carbamate | 22 mg, 24% | ClC=1C=C(C=CC1)N1C(=NOC1=O)C=1C(=NON1)NC(=O)C1=CC=C(CNC(OC(C)(C)C)=O)C=C1 | C23H21ClN6O6
